US06265411B1
A mixture of 6-(1-t-butoxycarbonylpyrrol-2-yl)oxindole (560 mg, 1.9 mmol), (prepared as described for the starting material in Example 63), and 10% palladium-on-charcoal catalyst (50 mg) in ethyl acetate (30 ml) was stirred under hydrogen at 1 atmosphere pressure for 3 days. The catalyst was removed by filtration through diatomaceous earth, the solvent was removed by evaporation and the residue triturated with ether/isohexanes (1/5) and collected by filtration to give 6-(1-t-butoxycarbonylpyrrolidin-2-yl)oxindole (480 mg, 85%) as a pale yellow solid.

reactant | 6-(1-t-butoxycarbonylpyrrol-2-yl)oxindole | 1.9 mmol, 560 mg | C(C)(C)(C)OC(=O)N1C(=CC=C1)C1=CC=C2CC(NC2=C1)=O | C17H18N2O3
catalyst | palladium-on-charcoal | 50 mg | [Pd] | Pd
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 6-(1-t-butoxycarbonylpyrrolidin-2-yl)oxindole | 480 mg, 85% | C(C)(C)(C)OC(=O)N1C(CCC1)C1=CC=C2CC(NC2=C1)=O | C17H22N2O3
